US07994185B2
N-{3-[2-(1-amino-1-methylethyl)-5-(2-amino-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide
Following a procedure analogous to the procedure described in Example 312 using 1,1-dimethylethyl {1-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate (100 mg, 0.156 mmol) and ammonium hydroxide (2 mL, 51.4 mmol) at 90° C. for 3 hours, the title compound was obtained as a solid (37 mg 45% yield). MS (ESI): 521.2 [M+H]+

reactant | 1,1-dimethylethyl {1-[5-(2-chloro-4-pyrimidinyl)-4-(3-{[(2,6-difluorophenyl)sulfonyl]amino}-2-fluorophenyl)-1,3-thiazol-2-yl]-1-methylethyl}carbamate | 0.156 mmol, 100 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)NC(OC(C)(C)C)=O)C1=C(C(=CC=C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C27H25ClF3N5O4S2
reactant | ammonium hydroxide | 51.4 mmol, 2 mL | [OH-].[NH4+]
product | N-{3-[2-(1-amino-1-methylethyl)-5-(2-amino-4-pyrimidinyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 45% yield | NC(C)(C)C=1SC(=C(N1)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC=C1F)F)F)C1=NC(=NC=C1)N | C22H19F3N6O2S2
